US07723455B2
A 1.1.1 Synthesis of 9,10-dibutyl-9,10-dihydrophenanthrene-9,10-diol
300 ml of a 2.0 M solution of n-butylmagnesium chloride (0.6 mol) were added dropwise to a solution of 41.75 g (0.2 mol) of phenanthrenequinone in 800 ml of dry THF at an internal temperature of 10° C. over a period of 1.5 hours and the mixture was subsequently stirred at RT for 6 hours. After hydrolysis with 125 ml of saturated NH4Cl solution, the precipitate was filtered off with suction, washed with ethyl acetate, the filtrate was extracted twice with Water and the organic phase was dried over Na2SO4. The brown solid which remained after evaporation of the solvent was subsequently recrystallized twice from EtOH/H2O (70:30). This gave 60.6 g (93%) of colorless needles.

reactant | n-butylmagnesium chloride | 0.6 mol | C(CCC)[Mg]Cl
reactant | phenanthrenequinone | 0.2 mol, 41.75 g | C1(C(C=CC=2C3=CC=CC=C3C=CC12)=O)=O | C14H8O2
reactant | NH4Cl | 125 ml | [NH4+].[Cl-]
solvent | THF | 800 ml | C1CCOC1 | C4H8O
product | 9,10-dibutyl-9,10-dihydrophenanthrene-9,10-diol | C(CCC)C1(C2=CC=CC=C2C=2C=CC=CC2C1(O)CCCC)O | C22H28O2
